US04880809
A mixture of 2,3-dimethoxy-5,6,7,8,9,10-hexahydrobenzocycloocten-5-one [R. Legros and P. Cangiant, Compt. Rend., 250, 147 (1960)] (0.8 g), sodium methoxide (0.34 g) and dimethyl carbonate (3.6 ml) is heated for two hours under reflux in a stream of nitrogen. The reaction mixture is cooled, and then poured into ice-water containing 1N HCl (20 ml), and the mixture is extracted with ethyl acetate. The organic layer is washed with water, dried and then concentrated under reduced pressure to afford methyl ester of 2,3-dimethoxy-5-oxo-5,6,7,8,9,10-hexahydrobenzocyclooctene-6-carboxylic acid as a pale yellow oily product (0.85 g). This product is dissolved in methanol (25 ml) and methylene chloride (15 ml). To the solution is added sodium borohydride (0.4 g) in limited amounts with stirring. The mixture is stirred for 1.5 hours. After addition of water (50 ml), the reaction mixture is shaken thoroughly. The organic layer is separated, and the aqueous layer is extracted with methylene chloride. The organic layers are combined and concentrated under reduced pressure. The residue is dissolved in a mixture of methanol (3 ml) and acetone (10 ml). To the solution is added a 1N aqueous solution of sodium hydroxide (10 ml), and the mixture is stirred at 60° C. for 10 minutes. The reaction mixture is cooled and then made acid with hydrochloric acid, and the mixture is extracted with ethyl acetate. The organic layer is concentrated under reduced pressure. To the residue is added dioxane (8 ml) and concentrated hydrochloric acid (3 ml), and the mixture is stirred at 90° C. for 30 minutes. After cooling, water (50 ml) is added to the reaction mixture, and the mixture is extracted with ethyl acetate. The organic layer is washed with water, dried and then concentrated under reduced pressure. Precipitating crystals are collected by filtration to give 2,3-dimethoxy-5,6,7,8-tetrahydrobenzocyclooctene-9-carboxylic acid (0.6 g). This product is recrystallized from ethyl acetate to give colorless needles, m.p. 200°-201° C.

reactant | 2,3-dimethoxy-5,6,7,8,9,10-hexahydrobenzocycloocten-5-one | 0.8 g | COC=1C(=CC2=C(CCCCCC2=O)C1)OC | C14H18O3
reactant | sodium methoxide | 0.34 g | C[O-].[Na+]
reactant | dimethyl carbonate | 3.6 ml | C(OC)(OC)=O | C3H6O3
product | 2,3-dimethoxy-5-oxo-5,6,7,8,9,10-hexahydrobenzocyclooctene-6-carboxylic acid | COC=1C(=CC2=C(CCCCC(C2=O)C(=O)O)C1)OC | C15H18O5
